US07141564B2
(a) Methyl 6-amino-5-bromo-3-fluoropyridine-2-carboxylate
A mixture of methyl 6-amino-5-bromopyridine-2-carboxylate (19.8 g) (T. R. Kelly and F. Lang, J. Org. Chem. 61, 1996, 4623-4633) and 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (34.3 g) in acetonitrile (340 ml) under argon was heated to 40° C. for 1 hour, 60° C. for 1 hour and then 80° C. overnight. After partitioning between EtOAc and water (500 ml each) the aqueous fraction was re-extracted with EtOAc (300 ml) and the combined organic solution dried with MgSO4 and evaporated. Chromatography (20% then 30% EtOAc in hexane) separated various byproducts from the required ester (2.09 g).

reactant | methyl 6-amino-5-bromopyridine-2-carboxylate | 19.8 g | NC1=C(C=CC(=N1)C(=O)OC)Br | C7H7BrN2O2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 34.3 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 340 ml | C(C)#N | C2H3N
product | Methyl 6-amino-5-bromo-3-fluoropyridine-2-carboxylate | NC1=C(C=C(C(=N1)C(=O)OC)F)Br | C7H6BrFN2O2
